US07902367B2
Step 68a) 1-[3-(Methoxycarbonyl)phenyl]benzyl nipecotate
Using benzyl nipecotate (4.39 g, 20.0 mmol) and 3-methoxycarbonylphenylboric acid (7.20 g, 40.0 mmol), the same procedure was followed as in Example 2 to give 2.34 g (33%) of the desired compound as a colorless oil.

reactant | benzyl nipecotate | 20.0 mmol, 4.39 g | N1CC(C(=O)OCC2=CC=CC=C2)CCC1 | C13H17NO2
reactant | 3-methoxycarbonylphenylboric acid | 40.0 mmol, 7.20 g | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | 1-[3-(Methoxycarbonyl)phenyl]benzyl nipecotate | 2.34 g, 33% | N1CC(C(=O)OCC2(CC=CC=C2)C2=CC(=CC=C2)C(=O)OC)CCC1 | C21H25NO4
